US04560792
Preparation of 1,18-Diacetoxy-9-Octadecene
The 300 mL autoclave was charged with 9-decenyl acetate (0.22 mol), (phenylmethoxycarbene)pentacarbonyltungsten(O) (0.001 mol), SnCl4 (0.01 mol), SiCl4 (0.02 mol) and 20 mL chlorobenzene. The autoclave was heated to 86° for 4 hours with continuous venting above 5 psig.

reactant | 9-decenyl acetate | 0.22 mol | C(C)(=O)OCCCCCCCCC=C | C12H22O2
reactant | SnCl4 | 0.01 mol | Cl[Sn](Cl)(Cl)Cl
reactant | SiCl4 | 0.02 mol | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
solvent | chlorobenzene | 20 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 1,18-Diacetoxy-9-Octadecene | C(C)(=O)OCCCCCCCCC=CCCCCCCCCOC(C)=O | C22H40O4
